US04241079
1-Iminophenylmethyl-2-(3-carbomethoxy-S-allylisothioureido)-4-propylthiobenzene
To a suspension of 1-iminophenylmethyl-2-(3-carbomethoxythioureido)-4-propylthiobenzene (1.0 g.) in acetone (30 ml.) and water (10 ml.) there is added aqueous sodium hydroxide (0.21 g.). The mixture is stirred at room temperature for one hour (a solution forms 20 minutes after the addition of sodium hydroxide) and to it there is added allyl bromide (0.36 g.). The solution is stirred at room temperature for two hours and is then poured into water (300 ml.). The mixture is stirred at room temperature for 24 hours and is vacuum filtered. The tacky yellow solid is stirred in hexane (50 ml.) and is filtered to yield 0.35 g. of 1-iminohexylmethyl-2-(3-carbomethoxy-S-isothioureido)-4-propylthiobenzene, m.p. 70°-72° C.

reactant | 1-iminophenylmethyl-2-(3-carbomethoxythioureido)-4-propylthiobenzene | 1.0 g | N=C1C(C(=C(C=C1)SCCC)CC1=CC=CC=C1)NC(=S)NC(=O)OC | C19H23N3O2S2
reactant | sodium hydroxide | 0.21 g | [OH-].[Na+]
reactant | allyl bromide | 0.36 g | C(C=C)Br | C3H5Br
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 1-Iminophenylmethyl-2-(3-carbomethoxy-S-allylisothioureido)-4-propylthiobenzene | N=C1C(C(=C(C=C1)SCCC)CC1=CC=CC=C1)NC(SCC=C)=NC(=O)OC | C22H27N3O2S2
